US08686005B2
8-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
4-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione (50.1 mg, 0.083 mmol) was mixed with zinc dust (196 mg, 1.0 mmol) in HOAc (15 mL). After it was heated at 90° C. for 1 h, the reaction mixture was cooled to 50° C. and diluted with a mixed solvent of MeOH:DCM (45 mL/5 mL) and filtered. The filtrate was evaporated at 95° C. (the bath temperature) under reduced pressure to dryness. The residue was diluted with a mixed solvent of DCM/MeOH (1:5) and basified with 28% aqueous NH4OH solution and concentrated. Chromatography of the residual crude with CH2Cl2/MeOH/28% aqueous NH4OH (16:10:1) followed by HPLC re-purification afforded the title compound in TFA salt form (9.23 mg, 19%). 1H NMR (DMSO-d6) δ 1.95-2.12 (4H), 2.16 (s, 3H, CH3), 2.19 (s, 3H, CH3), 2.80 (s, 3H, CH3), 3.19 (m, 2H), 3.50-3.75 (4H), 4.07 (m, 2H), 4.12 (m, 1H), 4.30 (s, 1H), 4.49 (s, 2H), 6.22 (m, 1H), 6.80-6.95 (3H), 7.40 (1H), 7.95 (s, 1H), 9.64 (br s, 1H), 11.02 (br s, H, NH), 11.29 (br s, 1H, NH); ESI-MS m/z 591.3 (MH+).

reactant | 4-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-1H-1,3,6-triaza-s-indacene-5,7-dione | 0.083 mmol, 50.1 mg | ClC1=C2N=C(NC2=CC=2C(N(C(C12)=O)C1CCN(CC1)C)=O)C=1C(NC=CC1NCC(COC1=C(C=C(C=C1)C)C)O)=O | C31H33ClN6O5
solvent | HOAc | 15 mL | CC(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
catalyst | zinc | 1.0 mmol, 196 mg | [Zn] | Zn
product | 8-Chloro-2-{4-[3-(2,4-dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-(1-methyl-piperidin-4-yl)-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | ClC=1C=2CN(C(C2C=C2NC(=NC12)C=1C(NC=CC1NCC(COC1=C(C=C(C=C1)C)C)O)=O)=O)C1CCN(CC1)C | C31H35ClN6O4
